US08629271B2
e) tert-Butyl 4-(2-methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
1-Propanephosphonic acid cyclic anhydride (1.57M solution in THF, 4.18 mL) was added to a solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (1.92 g), 2-methylthiazole-4-carboxylic acid (0.94 g) and triethylamine (5.48 mL) in DMF (70 mL) and the resulting mixture stirred for 16 h. The reaction mixture was poured into water (500 mL) and extracted with ethyl acetate (3×200 mL). The combined organic solutions were washed with water (2×100 mL) and brine (100 mL), dried over magnesium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with ethyl acetate to give the subtitled compound as a clear oil. Yield 2.30 g.

reactant | 1-Propanephosphonic acid cyclic anhydride | 1.57M, 4.18 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 1.92 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | 2-methylthiazole-4-carboxylic acid | 0.94 g | CC=1SC=C(N1)C(=O)O | C5H5NO2S
reactant | triethylamine | 5.48 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | tert-Butyl 4-(2-methylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | CC=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C18H27N3O4S
